US06596470B2
0.34 g of benzotriazole, 0.24 g of sodium hydroxide, and 25 g of phthalated gelatin were dissolved in 700 mL of water. The solution was kept at 60° C. and stirred. Then, to the solution, were added a solution prepared by dissolving 3.4 g of benzotriazole and 1.2 g of sodium hydroxide in 150 mL of water, and a solution prepared by dissolving 5 g of silver nitrate in 150 mL of water, simultaneously, near a stirrer, over a period of time of 4 minutes. The resulting solution was stirred for 5 minutes. After that, to the solution were added a solution prepared by dissolving 3.4 g of benzotriazole and 1.2 g of sodium hydroxide in 150 mL of water, and a solution prepared by dissolving 5 g of silver nitrate in 150 mL of water, simultaneously, near the stirrer, over a period of time of 6 minutes. The pH of the resulting emulsion was adjusted so as to cause precipitation, and excess salt was removed. After that, the pH was adjusted to 6.0, and a silver benzotriazole emulsion in an yield of 470 g was obtained.

reactant | benzotriazole | 0.34 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | sodium hydroxide | 0.24 g | [OH-].[Na+]
reactant | benzotriazole | 3.4 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | silver nitrate | 5 g | [N+](=O)([O-])[O-].[Ag+]
reactant | benzotriazole | 3.4 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | silver nitrate | 5 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 700 mL | O | H2O
solvent | water | 150 mL | O | H2O
solvent | water | 150 mL | O | H2O
solvent | water | 150 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | silver benzotriazole | N1N=NC2=C1C=CC=C2.[Ag] | InChI=1S/C6H5N3.Ag/c1-2-4-6-5(3-1)7-9-8-6;/h1-4H,(H,7,8,9);
